US05753661
1-[3-[4-(1,4-Benzodioxan-5-yl)-1-piperazinyl]-1-propyl]-3-phenyl-2-imidazolidinone, hydrochloride, 2a.
A mixture of 1-(1,4-benzodioxan-5-yl)-piperazine (1.5 g), 1-(3-chloro-1-propyl)-3-phenyl-2-imidazolidinone (1.4 g), potassium carbonate (3 g), and potassium iodide (0.1 g) in methyl isobutyl ketone was refluxed for 20 h. Filtration and removal of solvent in vacuo gave a viscous oil which was separated by column chromatography (silica gel, eluent: ethyl acetate/methanol/triethylamine=15:4:1). The title compound was isolated as an oil which crystallized as the hydrochloride salt from acetone by addition of hydrochloric acid. Yield: 1.9 g, mp: 229°-32° C. 1H NMR (δ, DMSO): 1.95-2.15 (m, 2H), 3.00-3.25 (m, 6H), 3.30 (t, 2H), 3.40-3.65 (m, 4H), 3.70-4.00 (m, 4H), 4.15-4.30 (m, 4H), 6.45-6.70 (m, 2H), 6.75 (t, 1H), 7.00 (t, 1H), 7.30 (t, 2H), 7.60 (d, 2H), 11.30 (b, 1H).

reactant | 1-(1,4-benzodioxan-5-yl)-piperazine | 1.5 g | O1CCOC2=C1C=CC=C2N2CCNCC2 | C12H16N2O2
reactant | 1-(3-chloro-1-propyl)-3-phenyl-2-imidazolidinone | 1.4 g | ClCCCN1C(N(CC1)C1=CC=CC=C1)=O | C12H15ClN2O
reactant | potassium carbonate | 3 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.1 g | [I-].[K+]
solvent | methyl isobutyl ketone | C(C(C)C)C(=O)C | C6H12O
product | 1-[3-[4-(1,4-Benzodioxan-5-yl)-1-piperazinyl]-1-propyl]-3-phenyl-2-imidazolidinone, hydrochloride | Cl.O1CCOC2=C1C=CC=C2N2CCN(CC2)CCCN2C(N(CC2)C2=CC=CC=C2)=O | InChI=1S/C24H30N4O3.ClH/c29-24-27(16-17-28(24)20-6-2-1-3-7-20)11-5-10-25-12-14-26(15-13-25)21-8-4-9-22-23(21)31-19-18-30-22;/h1-4,6-9H,5,10-19H2;1H
